US04476129
A mixture of 6 g (0.018 mol) of 1-[2-[bis(4-fluorophenyl)methoxy]ethyl]piperazine, 6.6 g (0.036 mol) of 4-chloro-1-phenyl-1-butanone and 5 g of powdered potassium carbonate in 100 ml of methyl isobutyl ketone was refluxed for 6 hours with stirring. The reaction mixture was concentrated by evaporation of the solvent and water and diethyl ether were added to the residue, after which the ethereal layer was separated off, washed with water, dried on sodium sulfate and the solvent was evaporated. The residue obtained was purified by columnchromatography (silicagel, eluent: chloroform/methanol 9:1). The proper fractions were concentrated and the residue was taken up in anhydrous diethyl ether, after which the solution was carefully acidified with a solution of hydrogen chloride in diethyl ether to pH=2. The precipitate obtained of 4-[4-[2-[bis(4-fluorophenyl)methoxy]-ethyl]-1-piperazinyl]-1-phenyl-1-butanone dihydrochloride was filtered off and crystallized once from 2-propanol.

reactant | 1-[2-[bis(4-fluorophenyl)methoxy]ethyl]piperazine | 0.018 mol, 6 g | FC1=CC=C(C=C1)C(OCCN1CCNCC1)C1=CC=C(C=C1)F | C19H22F2N2O
reactant | 4-chloro-1-phenyl-1-butanone | 0.036 mol, 6.6 g | ClCCCC(=O)C1=CC=CC=C1 | C10H11ClO
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl isobutyl ketone | 100 ml | C(C(C)C)C(=O)C | C6H12O
product | 4-[4-[2-[bis(4-fluorophenyl)methoxy]-ethyl]-1-piperazinyl]-1-phenyl-1-butanone dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C(OCCN1CCN(CC1)CCCC(=O)C1=CC=CC=C1)C1=CC=C(C=C1)F | InChI=1S/C29H32F2N2O2.2ClH/c30-26-12-8-24(9-13-26)29(25-10-14-27(31)15-11-25)35-22-21-33-19-17-32(18-20-33)16-4-7-28(34)23-5-2-1-3-6-23;;/h1-3,5-6,8-15,29H,4,7,16-22H2;2*1H
